US07129258B2
[5-Hydroxy-2-(4-hydroxyphenyl)-1,3-benzoxazol-7-yl] acetonitrile
To a solution of 7-(bromomethyl)-2-(4-hydroxyphenyl)-1,3-benzoxazol-5-ol (122 mg, 0.40 mmol) in N,N-dimethylformamide (1.5 mL) was added 18-crown-6-ether (202 mg, 0.80 mmol) and potassium cyanide (131 mg, 2 mmol). The reaction mixture was allowed to stir for 2 h and then poured into water and extracted with EtOAc. The organic extracts were washed with brine and dried over MgSO4. Evaporation and flash chromatography (50%–60% EtOAc/petroleum ether) gave (80 mg, 75% yield) of the product as a gray solid, m.p. 170–180° C.; MS m/e 265 (M−H)+. Analysis for C15H10N2O3×1.5H2O.

reactant | 7-(bromomethyl)-2-(4-hydroxyphenyl)-1,3-benzoxazol-5-ol | 0.40 mmol, 122 mg | BrCC1=CC(=CC=2N=C(OC21)C2=CC=C(C=C2)O)O | C14H10BrNO3
reactant | 18-crown-6-ether | 0.80 mmol, 202 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | potassium cyanide | 2 mmol, 131 mg | [C-]#N.[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
product | [5-Hydroxy-2-(4-hydroxyphenyl)-1,3-benzoxazol-7-yl] acetonitrile | 80 mg, 75% yield | OC=1C=C(C2=C(N=C(O2)C2=CC=C(C=C2)O)C1)CC#N | C15H10N2O3
